US04555572
A mixture of 17 g of 6-chloro-2-[(3-chloro-4-methoxyphenyl)amino]-3-nitrobenzoic acid, 35 ml of phosphorus oxychloride, 1 ml of N,N-dimethylaniline and 150 ml 1,2-dichloroethane was heated under reflux for 45 minutes. The resulting solid was collected by filtration from the hot reaction mixture and was washed with chloroform to provide 1,6-dichloro-7-methoxy-4-nitro-9(10H)-acridinone, mp 284°-285° C.

reactant | 6-chloro-2-[(3-chloro-4-methoxyphenyl)amino]-3-nitrobenzoic acid | 17 g | ClC1=CC=C(C(=C1C(=O)O)NC1=CC(=C(C=C1)OC)Cl)[N+](=O)[O-] | C14H10Cl2N2O5
reactant | phosphorus oxychloride | 35 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | N,N-dimethylaniline | 1 ml | CN(C1=CC=CC=C1)C | C8H11N
solvent | 1,2-dichloroethane | 150 ml | ClCCCl | C2H4Cl2
product | 1,6-dichloro-7-methoxy-4-nitro-9(10H)-acridinone | ClC1=CC=C(C=2NC3=CC(=C(C=C3C(C12)=O)OC)Cl)[N+](=O)[O-] | C14H8Cl2N2O4
